US07842688B2
c) tert-Butyl 3-(3-bromobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 4.14 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 2.31 g of 3-bromobenzyl bromide are reacted. The title compound is obtained as a yellowish oil. Rf=0.40 (1:2 EtOAc-heptane); Rt=6.45.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 4.14 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 3-bromobenzyl bromide | 2.31 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
product | tert-Butyl 3-(3-bromobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | BrC=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1 | C34H42BrNO6
